US05635510
54.1 Synthesis of 3-cyano-3-(pyridin-3-yl)-pentanedioic acid diethyl ester
Prepare by the method of example 1.1.2 using pyridin-3-yl-acetonitrile (0.161 mol) and ethyl bromoacetate (0.325 mol). Chromatograph on silica gel to give the title compound.

reactant | pyridin-3-yl-acetonitrile | 0.161 mol | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | ethyl bromoacetate | 0.325 mol | BrCC(=O)OCC | C4H7BrO2
product | 3-cyano-3-(pyridin-3-yl)-pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C=1C=NC=CC1)C#N)=O | C15H18N2O4
